US06063789
a) 2-Bromo-(N,N-dimethyl)benzylamine
Dimethylamine (33% w/w in methanol) (25 ml) was added to 2-bromobenzylbromide (7.5 g 30 mmol) at 0° C. in methanol (35 ml), and the solution stirred for 30 min., evaporated, diluted with water and extracted twice with diethyl ether. The combined extracts were dried over sodium sulphate and evaporated to give product as a yellow oil (6.0 g). M+ 215/213; 360 MHz 1H n.m.r (CDCl3) 7.54 (1H, dd, J 1.2, 8.0 Hz), 7.42 (1H, dd, J 1.6, 7.6 Hz), 7.30-7.26 (1H, m), 7.11 (1H, dt, J 1.7, 7.7 Hz), 3.52 (2H, s), 2.30 (6H, s).

reactant | Dimethylamine | 25 ml | CNC | C2H7N
reactant | 2-bromobenzylbromide | 30 mmol, 7.5 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
solvent | methanol | 35 ml | CO | CH4O
product | 2-Bromo-(N,N-dimethyl)benzylamine | 6.0 g | BrC1=C(CN(C)C)C=CC=C1 | C9H12BrN
